US09120761B2
(f) tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I21)
tert-Butyl 4-(3-methoxy-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I28) (5.52 g, 8.84 mmol) was dissolved in DMF (250 mL) then triethylamine (1 mL) and Pd/C (2.50 g) were added and the mixture stirred at 30° C. under hydrogen. After 16 hours the mixture was filtered through celite and the celite washed with DMF (250 mL). Triethylamine (1 mL) and Pd/C (2.50 g) were added to the combined filtrates and the mixture stirred at 30° C. under hydrogen. After 18 hours the resulting mixture was filtered through celite washing with ethyl acetate (300 mL). The filtrate was divided into two lots; each was poured into water (800 mL) and the resulting mixture extracted with ethyl acetate (3×300 mL). The ethyl acetate extracts from each lot were combined, washed with water (2×500 mL) and brine, dried (sodium sulfate) and evaporated. The two workups were combined and chromatographed (120 g silica cartridge, 0-20% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I21) (3.620 g, 65% yield) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.55 (s, 1H), 8.37 (d, J=8.3 Hz, 1H), 7.91 (s, 1H), 7.29-7.18 (m, overlaps with CHCl3), 6.85 (dd, J=8.3, 1.8 Hz, 1H), 6.77 (d, J=1.8 Hz, 1H), 4.26 (s, 2H), 3.93 (s, 3H), 3.68 (s, 3H), 3.19-3.01 (m, 4H), 2.81 (t, J=12.7 Hz, 2H), 2.64 (tt, J=12.0, 3.5 Hz, 1H), 1.85 (d, J=13.3 Hz, 2H), 1.70-1.57 (m, overlaps with water), 1.49 (s, 9H). LCMS Method C: rt 7.14 min; m/z 629.2 [M+H]+, 573.1 [M-tBu+2H]+; m/z 627.2 [M−H].

reactant | tert-Butyl 4-(3-methoxy-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 8.84 mmol, 5.52 g | COC=1C=C(C=CC1NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C33H35F3N4O5
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 2.50 g | [Pd] | Pd
product | tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 3.620 g, 65% yield | COC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C33H39F3N4O5
